US08956999B2
To a solution of 1-methyl-8-oxa-bicyclo[3.2.1]octane-2,4-dione (175 mg, 1.14 mmol) in chloroform (2 ml) is added, under N2, in one portion, the phosphorous pentachloride (135 mg, 0.65 mmol). The reaction mixture is stirred for reflux for 5 hours. Silica gel is added to the cooled crude reaction mixture, the solvent is evaporated under reduced pressure and the residue is purified by flash chromatography on silica gel to give 4-chloro-1-methyl-8-oxa-bicyclo[3.2.1]oct-3-en-2-one (93 mg).

reactant | 1-methyl-8-oxa-bicyclo[3.2.1]octane-2,4-dione | 1.14 mmol, 175 mg | CC12C(CC(C(CC1)O2)=O)=O | C8H10O3
reactant | phosphorous pentachloride | 0.65 mmol, 135 mg | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | chloroform | 2 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-chloro-1-methyl-8-oxa-bicyclo[3.2.1]oct-3-en-2-one | 93 mg | ClC1=CC(C2(CCC1O2)C)=O | C8H9ClO2
